US04496560
2-Benzhydryloxycarbonyl-7-(3,4-dichlorophenylthio)-acetamido-8-oxo-3-(2-tritylaminoacetamido-thiazol-5-yl)-5-thia-1-azabicyclo[4.2.0]oct-2-ene (1.61 g) is treated with formic acid (30 cc) and distilled water (3 cc) at 50° C. for 30 minutes and then concentrated to dryness under reduced pressure (2 mm Hg; 0.27 kPa) at 40° C. The residue is treated in accordance with the working method described in Example 24, to give 2-carboxy-7-(3,4-dichlorophenylthio)-acetamido-3-(2-glycylamino-thiazol-5-yl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (0.46 g) in the form of a yellow powder.

reactant | 2-Benzhydryloxycarbonyl-7-(3,4-dichlorophenylthio)-acetamido-8-oxo-3-(2-tritylaminoacetamido-thiazol-5-yl)-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 1.61 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)CC(=O)NC=1N2C(C(C2SCC1C1=CN=C(S1)NC(CNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)SC1=CC(=C(C=C1)Cl)Cl)=O | C52H41Cl2N5O5S3
solvent | formic acid | 30 cc | C(=O)O | CH2O2
product | 2-carboxy-7-(3,4-dichlorophenylthio)-acetamido-3-(2-glycylamino-thiazol-5-yl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 0.46 g | C(=O)(O)CC(=O)NC=1N2C(C(C2SCC1C1=CN=C(S1)NC(CN)=O)SC1=CC(=C(C=C1)Cl)Cl)=O | C20H17Cl2N5O5S3
